US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one and 7-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.58 mmol), 3-(trifluoromethoxy)benzylamine (0.08 mL, 0.636 mmol), Pd2(dba)3 (61 mg, 0.0667 mmol), rac-BINAP (120 mg, 0.193 mmol) and NaOt-Bu (155 mg, 1.613 mmol) in DMA (8 mL) was heated at 80° C. for 1 h. The mixture was allowed to cool. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-7-(3-trifluoromethoxy-benzylamino)-2H-phthalazin-1-one (28 mg) as an off white solid, 1H (600 MHz, CDCl3) δ: 4.50 (s, 2H), 7.06 (dd, 1H), 7.14 (d, 1H), 7.18 (s, 1H), 7.28 (d, 1H), 7.38 (t, 1H), 7.44 (d, 1H), 7.78 (d, 1H), 9.48 (s, 1H), m/z (M+1) 369.93; 4-chloro-6-(3-trifluoromethoxy-benzylamino)-2H-phthalazin-1-one (22 mg) as an off white solid, 1H (600 MHz, CDCl3) δ: 4.41 (s, 2H), 6.83 (d, 1H), 6.98 (dd, 1H), 7.08 (bd, 1H), 7.16 (bs, 1H), 7.25 (s, 1H), 7.32 (t, 1H), 8.06 (d, 1H), 10.15 (s, 1H) ppm. m/z (M+1) 369.93.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 7-bromo-4-chloro-2H-phthalazin-1-one | 0.58 mmol, 150 mg | BrC1=CC=C2C(=NNC(C2=C1)=O)Cl | C8H4BrClN2O
reactant | 3-(trifluoromethoxy)benzylamine | 0.636 mmol, 0.08 mL | FC(OC=1C=C(CN)C=CC1)(F)F | C8H8F3NO
reactant | rac-BINAP | 0.193 mmol, 120 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.613 mmol, 155 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0667 mmol, 61 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-7-(3-trifluoromethoxy-benzylamino)-2H-phthalazin-1-one | 28 mg | ClC1=NNC(C2=CC(=CC=C12)NCC1=CC(=CC=C1)OC(F)(F)F)=O | C16H11ClF3N3O2
